US08044213B2
A mixture of 0.043 g (0.1 mmole) of 2-[6-(3-chloro-propoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (I.34a), 1 mL of dimethylformamide, 0.069 g (0.5 mmole) of potassium carbonate, 0.001 g of potassium iodide and 0.011 mL (0.2 mmole) of 2-amino-ethanol was stirred at 100 degrees for 6 hours. The mixture was cooled, the solid was removed by filtration and the filtrate purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 20:80-100:0) to give 0.031 g of 2-(6-{3-[bis-(2-hydroxy-ethyl)-amino]-propoxy}-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (I.36) as a white powder. MH+/Z=472

reactant | 2-[6-(3-chloro-propoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.1 mmole, 0.043 g | ClCCCOC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1 | C20H16Cl2N4O2S
reactant | potassium carbonate | 0.5 mmole, 0.069 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.001 g | [I-].[K+]
reactant | 2-amino-ethanol | 0.2 mmole, 0.011 mL | NCCO | C2H7NO
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(6-{3-[bis-(2-hydroxy-ethyl)-amino]-propoxy}-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.031 g | OCCN(CCCOC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1)CCO | C24H26ClN5O4S
